US04902709
(a) 6-[2-(2,4 dichlorophenyl)ethyl]-5,6-dihydro-2H-pyran-2-one (1a)
Acetyl chloride (8.6 ml) was added slowly to a vigorously stirred solution of trans-6-[2-(2,4-dichlorophenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one (19.3 g, 66.8 mmol), CHCl3 (200 ml), triethylamine (35 ml) and 4-(dimethylasmino)pyridine (100 mg) at 20° C. The cloudy Pale amber mixture was stirred at ambient temperature for 16 hours and then distributed between diethyl ether (300 ml) and H2O (300 ml). The organic layer was separated and washed with IN HCl 200 ml) and H2O (2×200 ml), then dried and evaporated. The pale amber residual oil slowly solidified. Crystallization from n-butyl chloride:hexane; 1:5(v:V) provided the title compound as small pale amber needles. m.p. 69°-70° C.

reactant | Acetyl chloride | 8.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | trans-6-[2-(2,4-dichlorophenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | 66.8 mmol, 19.3 g | ClC1=C(C=CC(=C1)Cl)CC[C@H]1C[C@@H](CC(O1)=O)O | C13H14Cl2O3
reactant | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
reactant | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
solvent | H2O | 300 ml | O | H2O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 6-[2-(2,4 dichlorophenyl)ethyl]-5,6-dihydro-2H-pyran-2-one | ClC1=C(C=CC(=C1)Cl)CCC1CC=CC(O1)=O | C13H12Cl2O2
